US06548493B1
(7aS,11aR)-2-(2,4-dichlorophenyl)-10-propyl-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound was prepared by the method of Example 382 as a yellow oil (21 mg, 65%) from (7aS,11aR)-2-(2,4-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.083 mmol) and 1-bromopropane (30 mg, 0.24 mmol). 1H NMR (CDCl3, 300 MHz) δ0.92 (t, J=7.3 Hz, 3H), 1.61-1.75 (m, 2H), 2.02-2.35 (m, 6H), 2.45-2.63 (m, 3H), 2.75 (t, J=6.5 Hz, 2H), 2.87-2.98 (br, 1H), 3.00-3.08 (br, 1H), 3.30 (dt, J=10.6, 4.0 Hz, 1H), 3.35-3.48 (m, 2H), 6.94 (s, 1H), 6.99 (s, 1H), 7.21-7.25 (m, 1H), 7.44 (d, J=1.5 Hz, 1H) ppm. MS (CI, NH3): 401.1 (base, M+H).

reactant | (7aS,11aR)-2-(2,4-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.083 mmol, 30 mg | ClC1=C(C=CC(=C1)Cl)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1 | C20H20Cl2N2
reactant | 1-bromopropane | 0.24 mmol, 30 mg | BrCCC | C3H7Br
reactant | NH3 | N | H3N
product | (7aS,11aR)-2-(2,4-dichlorophenyl)-10-propyl-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | ClC1=C(C=CC(=C1)Cl)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCN(C1)CCC | C23H26Cl2N2
